US05063243
To a solution of β-phenethyl alcohol (3.6 ml, 30.0 mmol) in DMF (30 ml) was added cyanoacetic acid (2.55 g, 30.0 mmol) in DMF (20 ml) and the whole was cooled to 0° C. 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimido (4.66 g, 30.0 mmol) in DMF (5 ml) and 4-dimethylaminopyridine (0.37 g, 3.0 mmol) in DMF (10 ml) were then added to the mixture in that order at 0° C. and stirring was continued for 1 hour at this temperature and 18 hours at room temperature. The reaction mixture was concentrated in vacuo and purified by column chromatography to afford phenethyl cyanoacetate (2.49 g, 13.2 mmol).

reactant | β-phenethyl alcohol | 30.0 mmol, 3.6 ml | C1=CC=C(C=C1)CCO | C8H10O
reactant | cyanoacetic acid | 30.0 mmol, 2.55 g | C(#N)CC(=O)O | C3H3NO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 3.0 mmol, 0.37 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | phenethyl cyanoacetate | 13.2 mmol, 2.49 g | C(#N)CC(=O)OCCC1=CC=CC=C1 | C11H11NO2
